US06251936B1
[3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-hydroxy-phenyl]-carbamic Acid tert-Butyl Ester
A solution of 2-amino-6-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (0.382 g, 0.801 mmol) and di-t-butyl dicarbonate (0.191 g, 0.875 mmol) in THF (0.83 mL) was heated at 70° C. for 15 h. The reaction mixture was diluted with ether and silica gel was added. The ether was removed and the adsorbate was flash chromatographed (9:1 pet. ether: ethyl acetate) to provide the title compound as a white solid (0.447 g, 97%): mp 205-207° C.: NMR (DMSO-d6); 9.61 (s, 1H), 8.55 (2, 1H). 8.19 (d, J=8 Hz, 1H), 7.65 (ddd, J=8, 6, 2 Hz, 1H), 7.52-7.46 (m, 3 H), 7.27 (d, J=2 Hz, 1H), 2.44 (d, J=1 Hz, 3H), 1.67 (d, J=1 Hz, 3H), 1.40 (s, 9 H); MS (EI): 2 bromine isotope pattern 575 (20%, M+), 577 (50%, M+), 579 (20%, M+), 519 (50%, M+H-tBu), 521 (100%, M+H-tBu), 523 (55%, M+H-tBu); Anal. Calc. for C25H23Br2NO3S: C, 52.01; H, 4.02; N, 2.43. Found: C, 51.09; H, 3.84; N, 2.28.

reactant | 2-amino-6-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.801 mmol, 0.382 g | NC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)O | C20H15Br2NOS
reactant | di-t-butyl dicarbonate | 0.875 mmol, 0.191 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 0.83 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-hydroxy-phenyl]-carbamic Acid tert-Butyl Ester | 0.447 g, 97% | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)O)=O | C25H23Br2NO3S
